US04772631
A mixture of N-benzyl-2-p-hydroxyphenoxyethylamine (2.5 g) and 1,2-epoxy-3-phenoxypropane (1.54 g) in propan-2-ol (50 ml) was heated under reflux for 72 hours. The solvent was removed by evaporation to give N-benzyl-N-(2-p-hydroxyphenoxyethyl)-2-hydroxy-3-phenoxypropylamine as an oil which was essentially pure as indicated by thin layer chromatography (TLC) [using silica plates and 5% methanol in dichloromethane as eluant] and was used without purification.

reactant | N-benzyl-2-p-hydroxyphenoxyethylamine | 2.5 g | C(C1=CC=CC=C1)NCCOC1=CC=C(C=C1)O | C15H17NO2
reactant | 1,2-epoxy-3-phenoxypropane | 1.54 g | O1CC1COC1=CC=CC=C1 | C9H10O2
solvent | propan-2-ol | 50 ml | CC(C)O | C3H8O
product | N-benzyl-N-(2-p-hydroxyphenoxyethyl)-2-hydroxy-3-phenoxypropylamine | C(C1=CC=CC=C1)N(CCOC1=CC=C(C=C1)O)CC(COC1=CC=CC=C1)O | C24H27NO4
